US07696231B2
a) Preparation of 4-{[4-(methoxycarbonyl)benzoyl]amino}benzoic acid (Compound C of Scheme 2)
To a solution of 4-aminobenzoic acid (500 mg, 3.65 mmol) in anhydrous THF (20 mL) were added DIEA (1.36 mL, 8.02 mmol) and tert-butyldimethylchlorosilane (4 mL, 1M in THF). The resulting mixture was allowed to stir at rt for 45 min. A solution of terephtalic acid monomethyl ester chloride (800 mg, 4 mmol) in THF (5 mL) was added and the resulting mixture was stirred for 90 min at rt until the disappearance of the starting material and finally TBAF (4 mL, 1M in THF) was added. After 25 min at rt, the reaction was quenched with a solution of 0.1N HCl (100 mL). Extraction with EtOAc (3×200 mL), drying over sodium sulfate and evaporation under vacuo gave a pale yellow solid. Washing with hot EtOH (50 mL) gave the tilte compound as a white solid (698 mg, 64%) in a 84% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 4-aminobenzoic acid | 3.65 mmol, 500 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | DIEA | 8.02 mmol, 1.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | tert-butyldimethylchlorosilane | 1M, 4 mL | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | terephtalic acid monomethyl ester chloride | 4 mmol, 800 mg | [Cl-].COC(C1=CC=C(C(=O)O)C=C1)=O
reactant | TBAF | 1M, 4 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-{[4-(methoxycarbonyl)benzoyl]amino}benzoic acid | 698 mg, 64% | COC(=O)C1=CC=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=C1 | C16H13NO5
